US09162960B2
Oxidation of 3-methyl phthalic acid
3-Methylphthalic acid disodium salt (4.4 mmol) was dissolved in water (50 ml). Potassium permanganate (14.7 mmol) was added and the resulting solution was stirred for 18 h at room temperature. A precipitate was formed. The precipitate was filtered off and washed three times with hot water. The combined aqueous phase was evaporated under reduced pressure to approximately one third of the initial volume and cooled in an ice-bath. Concentrated HCl was added carefully for neutralization. Expected precipitation of hemimellitic acid did not occur. After evaporation of water in vacuo, the dark residue represented a complex mixture of compounds.

reactant | 3-Methylphthalic acid disodium salt | 4.4 mmol | [Na+].[Na+].CC1=C(C(C(=O)[O-])=CC=C1)C(=O)[O-]
reactant | Potassium permanganate | 14.7 mmol | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 50 ml | O | H2O
product | 3-methyl phthalic acid | CC1=C(C(C(=O)O)=CC=C1)C(=O)O | C9H8O4
